US08349824B2
A mixture of 5-(6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid (138 mg, 363 μmol), morpholine (253 μl, 2.9 mmol), propylphosphonic anhydride (50% in ethyl acetate, 534 μl, 907 μmol) and diisopropylethylamine (190 μl, 1.09 mmol) in tetrahydrofuran (10 ml) was stirred for 2.5 days (weekend) at 70° C. under nitrogen atmosphere. The solvent was evaporated, the residue was triturated with saturated aqueous sodium hydrogencarbonate solution and the precipitated solid was filtered off and dried in vacuum. The crude material was applied on silica and purified by flash chromatography over a 20 g silica column using heptane/ethyl acetate 10-100% as eluent, affording 2-methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid (6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide (67 mg, 41.1%) as white solid. Mp.: 224-225° C. MS: m/z=450.0 (M+H+).

reactant | 5-(6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | 363 μmol, 138 mg | FC=1C(=CC=2N(C1)N=C(N2)C2=CC=CC=C2)NC(=O)C2=C(C=NN2C)C(=O)O | C18H13FN6O3
reactant | morpholine | 2.9 mmol, 253 μl | N1CCOCC1 | C4H9NO
reactant | propylphosphonic anhydride | 907 μmol, 534 μl | CCCP(=O)=O | C3H7O2P
reactant | diisopropylethylamine | 1.09 mmol, 190 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid (6-fluoro-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide | 67 mg, 41.1% | FC=1C(=CC=2N(C1)N=C(N2)C2=CC=CC=C2)NC(=O)C=2N(N=CC2C(=O)N2CCOCC2)C | C22H20FN7O3
